US08937041B2
2-(3-chloroquinoxalin-2-yl)benzo[d]thiazole
To a suspension of 3-(benzo[d]thiazol-2-yl)quinoxalin-2-ol (251 mg, 0.900 mmol) in toluene (4500 μl) was added thionyl chloride (131 μl, 1.800 mmol) followed by DMF (69.7 μl, 0.900 mmol). The green mixture was stirred at 110° C. for 3 hr. The reaction mixture was evaporated under reduced pressure and the resulting solid was diluted with CHCl3 (30-40 ml) and the insoluble solid filtered and rinsed with CHCl3. The filtrate was evaporated under reduced pressure and the residue purified by flash chromatography on silica gel (eluted with chloroform, then dichloromethane) to provide the title compound as a light yellow solid.

reactant | 3-(benzo[d]thiazol-2-yl)quinoxalin-2-ol | 0.900 mmol, 251 mg | S1C(=NC2=C1C=CC=C2)C=2C(=NC1=CC=CC=C1N2)O | C15H9N3OS
reactant | thionyl chloride | 1.800 mmol, 131 μl | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.900 mmol, 69.7 μl | CN(C)C=O | C3H7NO
solvent | toluene | 4500 μl | C1(=CC=CC=C1)C | C7H8
product | 2-(3-chloroquinoxalin-2-yl)benzo[d]thiazole | ClC=1C(=NC2=CC=CC=C2N1)C=1SC2=C(N1)C=CC=C2 | C15H8ClN3S
